US04247629
D-10: 4[2{2(4-Sulfophenyl)ethylsulfonyl}4-nitrophenylazo]5-morpholinosulfonamido-1-naphthol salt
To 3 ml. of conc. sulfuric acid under cooling was added 0.43 g. of sodium nitrite, dissolved by heating and, after cooling, 5.5 ml. of acetic acid were added thereto. The resulting solution was cooled to 5° C. and 2.32 g. of 2[2(4-sulfophenyl)ethylsulfonyl]-4-nitroaniline were added thereto with stirring. Stirring was continued at room temperature for 3 hours to prepare a diazonium salt solution. Separately, a solution of 1.85 g. of 5-morpholinosulfonamido-1-naphthol in 250 ml. of ethanol and 30 ml. of water was prepared, and a solution of 15 g. of sodium acetate in 40 ml. of water was added thereto with stirring. To the resulting solution, the diazonium salt solution as prepared above was added dropwise under ice-cooling. The reaction mixture was stirred at about 50° C. for 2 hours. Thereafter, the mixture was concentrated to about 100 ml., the precipitate thus separated was recovered by filtration and dried to give 4.3 g. of the desired product.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | 2[2(4-sulfophenyl)ethylsulfonyl]-4-nitroaniline | S(=O)(=O)(O)C1=CC=C(C=C1)CCS(=O)(=O)C1=C(N)C=CC(=C1)[N+](=O)[O-] | C14H14N2O7S2
reactant | 5-morpholinosulfonamido-1-naphthol | O1CCN(CC1)S(=O)(=O)NC1=C2C=CC=C(C2=CC=C1)O | C14H16N2O4S
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4[2{2(4-Sulfophenyl)ethylsulfonyl}4-nitrophenylazo]5-morpholinosulfonamido-1-naphthol | S(=O)(=O)(O)C1=CC=C(C=C1)CCS(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])N=NC1=CC=C(C2=CC=CC(=C12)NS(=O)(=O)N1CCOCC1)O | C28H27N5O11S3
